US07449475B2
N-Cyclopropyl-4-fluoro-2-(oxiran-2-ylmethoxy)benzamide
A mixturte of N-cyclopropyl-4-fluoro-2-hydroxybenzamide (195 mg, 1.0 mmol), (2S)-oxiran-2-ylmethyl3-nitrobenzenesulfonate (259 mg, 1.0 mmol) and Cs2CO3 (390 mg, 1.2 mmol) in DMF (5 mL) was stirred at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel flash chromatography (0-30% ethylacetate in petroleum ether) to give the subtitled compound (150 mg).

reactant | N-cyclopropyl-4-fluoro-2-hydroxybenzamide | 1.0 mmol, 195 mg | C1(CC1)NC(C1=C(C=C(C=C1)F)O)=O | C10H10FNO2
reactant | (2S)-oxiran-2-ylmethyl3-nitrobenzenesulfonate | 1.0 mmol, 259 mg | O1[C@@H](C1)COS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H9NO6S
reactant | Cs2CO3 | 1.2 mmol, 390 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-Cyclopropyl-4-fluoro-2-(oxiran-2-ylmethoxy)benzamide | 150 mg | C1(CC1)NC(C1=C(C=C(C=C1)F)OCC1OC1)=O | C13H14FNO3
